US07820664B2
Step C: N-(7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3a,7a-dihydro-3H-imidazo[4,5-b]pyridin-5-yl)-1-(2-hydroxyethyl)cyclopropane-1-sulfonamide:
To a solution of 1-(2-(tert-butyldimethylsilyloxy)ethyl)-N-(7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3a,7a-dihydro-3H-imidazo[4,5-b]pyridin-5-yl)cyclopropane-1-sulfonamide (40 mg, 0.060 mmol) in THF (2 ml) is added HCl (0.20 ml, 1.2 N in H2O, 0.24 mmol). After stirring for 1 h, the reaction is quenched with saturated aqueous NaHCO3 solution (3 ml) and extracted with EtOAc (2×10 ml). The combined organic solution is dried over Na2SO4 and concentrated. Silica gel chromatography yields the title compound.

reactant | 1-(2-(tert-butyldimethylsilyloxy)ethyl)-N-(7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3a,7a-dihydro-3H-imidazo[4,5-b]pyridin-5-yl)cyclopropane-1-sulfonamide | 0.060 mmol, 40 mg | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)S(=O)(=O)NC=1C(=C(C2C(N1)N(C=N2)C)Cl)NC2=C(C=C(C=C2)I)F | C24H34ClFIN5O3SSi
reactant | HCl | 0.24 mmol, 1.2 N, 0.20 ml | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3a,7a-dihydro-3H-imidazo[4,5-b]pyridin-5-yl)-1-(2-hydroxyethyl)cyclopropane-1-sulfonamide | ClC=1C2C(N=C(C1NC1=C(C=C(C=C1)I)F)NS(=O)(=O)C1(CC1)CCO)N(C=N2)C | C18H20ClFIN5O3S
